US05827881
A] A 1N solution of sodium hydroxide (174 ml, 0.17 mole) was added to a mixture of 3-piperidinemethanol (20 g, 0.17 mole) and butyl bromide (23 ml, 0.2 mole) in ethanol (200 ml). The reaction mixture was refluxed for 4 hours, then the solvent was evaporated under vacuum. The aqueous solution was acidified with HCl and washed with ethyl ether, then treated with a 32% solution of sodium hydroxide to pH-12 and extracted with ethyl ether. The combined organic phases were anhydrified over sodium sulfate and the solvent was evaporated under vacuum. The crude was purified by distillation yielding 23 g of N-butyl-3-piperidinemethanol (b.p.: 115-117/6 mmHg) (yield: 79%).

reactant | sodium hydroxide | 0.17 mole, 174 ml | [OH-].[Na+]
reactant | 3-piperidinemethanol | 0.17 mole, 20 g | N1CC(CCC1)CO | C6H13NO
reactant | butyl bromide | 0.2 mole, 23 ml | C(CCC)Br | C4H9Br
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | N-butyl-3-piperidinemethanol | 23 g, yield: 79% | C(CCC)N1CC(CCC1)CO | C10H21NO
